US07745438B2
[2-(S)-benzyloxy-3-(S)-dibenzylamino-4-(3,5-difluorophenyl)-1-(R)-hydroxymethylbutyl]-(4-cyclohexyl-2-(S)-hydroxy-butyl)-carbamic acid tert-butyl ester
Add di-tert-butyl dicarbonate (0.19 mL, 0.82 mmol) to a solution of 3-(R)-benzyloxy-2-(R)-(4-cyclohexyl-2-(S)-hydroxybutylamino)-4-(S)-dibenzylamino-5-(3,5-difluorophenyl)-pentan-1-ol (424 mg, 0.63 mmol) and diisopropylethylamine (0.19 mL, 1.07 mmol) in tetrahydrofuran. Stir overnight at room temperature and add more di-tert-butyl dicarbonate (0.4 mL). Stir another day, concentrate, dilute with ethyl acetate, wash with dilute aqueous sodium bicarbonate, dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 10:90 ethyl acetate:dichloromethane) to give the desired compound (317 mg, 65%).

reactant | di-tert-butyl dicarbonate | 0.82 mmol, 0.19 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-(R)-benzyloxy-2-(R)-(4-cyclohexyl-2-(S)-hydroxybutylamino)-4-(S)-dibenzylamino-5-(3,5-difluorophenyl)-pentan-1-ol | 0.63 mmol, 424 mg | C(C1=CC=CC=C1)O[C@H]([C@@H](CO)NC[C@H](CCC1CCCCC1)O)[C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C42H52F2N2O3
reactant | diisopropylethylamine | 1.07 mmol, 0.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 0.4 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [2-(S)-benzyloxy-3-(S)-dibenzylamino-4-(3,5-difluorophenyl)-1-(R)-hydroxymethylbutyl]-(4-cyclohexyl-2-(S)-hydroxy-butyl)-carbamic acid tert-butyl ester | 317 mg, 65% | C(C)(C)(C)OC(N(C[C@H](CCC1CCCCC1)O)[C@@H]([C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)CO)=O | C47H60F2N2O5
